US05043142
To a solution of 0.79 g (9.16 mmol) of piperazine in dry pyridine (20 ml) was added 5.15 g (20.15 mmol) of 4-bromobenzenesulfonyl chloride in an atmosphere of argon, and the mixture was allowed to react at 0° C. for 3 hours. To the solution was added water followed by extraction with ethyl acetate. The organic layer was washed with water and then concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography for separation and purification. Elution with dichloromethane yielded 4.37 g (8.34 mmol) of N,N'-bis(4-bromobenzenesulfonyl)piperazine.

reactant | piperazine | 9.16 mmol, 0.79 g | N1CCNCC1 | C4H10N2
reactant | 4-bromobenzenesulfonyl chloride | 20.15 mmol, 5.15 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | water | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N,N'-bis(4-bromobenzenesulfonyl)piperazine | 8.34 mmol, 4.37 g | BrC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)Br | C16H16Br2N2O4S2
